US04192890
46.5 g of 3-p-chlorobenzoyl benzonitrile were added to a mixture of 350 cc of water, 350 cc of glacial acetic acid and 350 cc of concentrated sulfuric acid and the resulting mixture was refluxed for 3 hours and 40 minutes. After cooling to 10° C., the mixture was slowly added to water and the precipitate formed was recovered by vacuum filtration, was washed and dried to obtain 48 g of 3-p-chlorobenzoyl benzoic acid melting at 228° C. A sample of the product after crystallization from acetone melted at 234° C.

reactant | 3-p-chlorobenzoyl benzonitrile | 46.5 g | ClC1=CC=C(C(=O)C=2C=C(C#N)C=CC2)C=C1 | C14H8ClNO
reactant | acetic acid | 350 cc | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 350 cc | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | water | 350 cc | O | H2O
product | 3-p-chlorobenzoyl benzoic acid | 48 g | ClC1=CC=C(C(=O)C=2C=C(C(=O)O)C=CC2)C=C1 | C14H9ClO3
